US07745641B2
In a similar manner to Step 2 of Example 6, 4-chloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (37.6 mg, 0.0915 mmol) was dissolved in acetonitrile (2 mL), and the solution was treated with 4-(2-aminoethyl)morpholine (0.048 mL, 0.37 mmol), acetic acid (0.105 mL, 1.83 mmol) and sodium triacetoxyborohydride (97 mg, 0.46 mmol). The reaction mixture was added with water and sodium carbonate, followed by extracting with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure to obtain 4-chloro-7-(1-(tert-butoxycarbonyl)-5-[(2-morpholinoethyl)aminomethyl]indol-2-yl)isoindolinone (51.7 mg).

reactant | 4-chloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.0915 mmol, 37.6 mg | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C22H19ClN2O4
reactant | 4-(2-aminoethyl)morpholine | 0.37 mmol, 0.048 mL | NCCN1CCOCC1 | C6H14N2O
reactant | acetic acid | 1.83 mmol, 0.105 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.46 mmol, 97 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 4-chloro-7-(1-(tert-butoxycarbonyl)-5-[(2-morpholinoethyl)aminomethyl]indol-2-yl)isoindolinone | 51.7 mg | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CNCCN1CCOCC1)C(=O)OC(C)(C)C)=O | C28H33ClN4O4
